* Z:\mnt\design.r\spice\examples\3436.asc
L1 IN N002 3.9µ Rpar=10K
D1 N002 OUT PMEG2020AEA
R1 OUT N005 90.9K
R2 N005 0 10K
C1 OUT 0 22µ
C2 0 N004 470p
C3 N003 N004 .01µ
R3 N003 0 4.7K
V1 IN 0 5
XU1 IN N002 0 MP_01 N001 N005 N004 LT3436
Rload OUT 0 15
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 750u startup
.lib LT3436.sub
.backanno
.end
